US06326381B1
Under a N2 atmosphere, a solution of {(1R)-1-benzyl-2-[4-(5-fluoro-2-methoxy-phenyl)-piperidin-1-yl]-ethyl}-methyl-amine (0.12 g. 0.33 mmole) and triethylamine (0.10 mL, 0.74 mmole) in dichloromethane (10 mL) was cooled to 0° C. To the solution, 1-methyl-1-cyclohexanecarboxylic acid chloride (93 mg, 0.58 mmole) in a minimal amount of dichloromethane was added. The resulting mixture was stirred at 0° C. overnight. The solvent was evaporated and the residue dissolved in EtOAc (50 mL) and water (50 mL). The layers were separated, the organics washed with water (2×50 mL) and brine and dried over Na2SO4, filtered and concentrated. Flash chromatography (elution with 1:3 EtOAc-hexane) gave 0.14 g (88% yield) of 1-methyl-cyclohexanecarboxylic acid {(1R)-1-benzyl-2-[4-(5-fluoro-2-methoxy-phenyl)-piperidin-1-yl]-ethyl}-methylamide. An ethanolic solution of the product was heated to gentle reflux and 1 equivalent of fumaric acid in hot ethyl alcohol solution was added to afford the fumarate salt of the titled compound as a white solid. m.p. 160-165° C.

reactant | {(1R)-1-benzyl-2-[4-(5-fluoro-2-methoxy-phenyl)-piperidin-1-yl]-ethyl}-methyl-amine | 0.33 mmole, 0.12 g | C(C1=CC=CC=C1)[C@H](CN1CCC(CC1)C1=C(C=CC(=C1)F)OC)NC | C22H29FN2O
reactant | triethylamine | 0.74 mmole, 0.10 mL | C(C)N(CC)CC | C6H15N
reactant | 1-methyl-1-cyclohexanecarboxylic acid chloride | 0.58 mmole, 93 mg | CC1(CCCCC1)C(=O)Cl | C8H13ClO
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 1-methyl-cyclohexanecarboxylic acid {(1R)-1-benzyl-2-[4-(5-fluoro-2-methoxy-phenyl)-piperidin-1-yl]-ethyl}-methylamide | 0.14 g, 88% yield | C(C1=CC=CC=C1)[C@H](CN1CCC(CC1)C1=C(C=CC(=C1)F)OC)N(C(=O)C1(CCCCC1)C)C | C30H41FN2O2
